Name:  ___                     Unit No:   ___
 
Admission Date:                        Discharge Date:   
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
poison ___ extract
 
Attending: ___.
 
Chief Complaint:
Right shoulder rotator cuff arthropathy 

 
Major Surgical or Invasive Procedure:
Right Reverse Total Shoulder

 
History of Present Illness:
___ is a ___ year-old right-hand-dominant woman 
previously
treated by Dr. ___ for a right rotator cuff injury.  
She
underwent an arthroscopic right rotator cuff repair in ___. 
Referred to our attention on ___.  At that time she was
diagnosed with rotator cuff arthropathy.  She tried a 
subacromial
injection.

When she was seen in the office on ___, she described
approximately ___ weeks of improvement of her symptoms following
the injection.  She presents today explaining that her shoulder
pain has persisted.  Additionally she has been managing some
ongoing right hip bursitis.  Between her shoulder pain and right
lateral hip pain she has been unable to return to tennis.

She localizes pain to the shoulder girdle itself.  She has no
radiating symptoms beyond the elbow into the forearm or hand. 
She has difficulty when getting dressed putting her arm 
overhead.
She has lost significant motion reaching behind her back and
across her body secondary to pain.  She has been taking 1 Aleve
220 mg daily primarily for her hip.  She is unsure whether or 
not
this affects her right shoulder symptoms.

 
Past Medical History:
PMH: hypothyroid

PSH: Rotator cuff surgery
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Gen: A&Ox3
Pulm: No increased WOB 
CV: RRR by palpation at the time of the exam

RUE:
Dressing C/D/I
Block in effect, sensory motor exam deferred 
Fingers WWP
 
Brief Hospital Course:
Admitted after right shoulder replacement. When Pain was well 
controlled with oral medications, she was discharged home with 
services.

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amoxicillin ___ mg PO ONE HOUR BEFORE PROCEDURE FOR 
PROPHYLAXIS 
2. Anastrozole 1 mg PO DAILY 
3. Alendronate Sodium 70 mg PO QMON 
4. Naproxen 220 mg PO BID:PRN Pain - Mild 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Aspirin EC 81 mg PO DAILY  
3.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain  
4.  Alendronate Sodium 70 mg PO QMON  
5.  Amoxicillin ___ mg PO ONE HOUR BEFORE PROCEDURE FOR 
PROPHYLAXIS  
6.  Anastrozole 1 mg PO DAILY  
7.  Levothyroxine Sodium 100 mcg PO DAILY  
8.  Naproxen 220 mg PO BID:PRN Pain - Mild 
Please do not restart until 6 weeks from surgery (after 
___.  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
s/p Right Shoulder Replacement

 
Discharge Condition:
Stable

 
Discharge Instructions:
Reverse Total Shoulder Arthroplasty Post-Operative Instructions
 
Medications
 
You will be given a prescription for pain medicine. The pain 
medication is a codeine derivative and should be taken as 
directed. 
 
Please take your aspirin (81 mg) each day for six weeks to 
decrease the risk of having a complication related to a blood 
clot.

 
Please take a stool softener, like Colace (Docusate Sodium 
100mg), twice a day while taking narcotics to prevent 
constipation.
 
Dressing

Leave your dressing on until ___. On ___, you may 
remove your dressing. LEAVE THE TAPE STRIPS OVER YOUR INCISIONS. 
These will stay on for 1.5 to 2 weeks and will peel off slowly.
 

 
Showering
 
You may shower ___ morning and get your incisions wet. Do 
NOT immerse in a tub or pool for 7 – 10 days to avoid excessive 
scarring and risk of infection.
 

 
When you shower, let your arm hang at your side. Do NOT raise or 
lift your arm. 
 

 
To wash under your arm, lean forward carefully and let your arm 
hang. Using your other hand, wash under your operative arm. Do 
NOT scrub the incision. 
 

 
When you are done washing, stand up and let your arm hang at 
your side. 
 

 
Pat yourself dry and put your sling on.
 

 
Ice Packs
 
Keep Ice Packs on at all times exchanging every hour while 
awake. Icing is very important to decrease swelling and pain and 
improve mobility. After 24 hours, continue to use the ice 3 – 4 
times a day, 15 – 20 minutes each time to keep swelling to a 
minimum.
 
Activity
• Take it easy.
• Wear your sling.  
• Keep your arm at your side at ALL TIMES – no reaching, 
grabbing or pulling with your operative arm.

 
When to Contact Us
 
If you experience severe pain that your pain medication does not 
help, please let us know.

If you have a temperature over 101.5º, please contact our office 
at ___. 

Physical Therapy:
s/p Right Reverse Total Shoulder Arthroplasty with Open Biceps 
Tenodesis, ___ 
  
  Reverse Total Shoulder Protocol 
  
  Sling, Non-weight bearing for 6 weeks. 
  
  No lifting, reaching, grabbing, carrying or pulling for 6 
weeks. 
  
  Remove sling 2x/day and let your arm rest at your side to 
stretch your elbow/prevent stiffness at elbow. 
  
  Please schedule ___ to start on or after ___. 

Treatments Frequency:
Dressing
Leave your dressing on until ___.  On ___, you may 
remove your dressing.  LEAVE THE TAPE STRIPS OVER YOUR 
INCISIONS.  These will stay on for 1.5 to 2 weeks and will peel 
off slowly.

Showering
You may shower ___ morning and get your incisions wet.  Do 
NOT immerse in a tub or pool for 7 – 10 days to avoid excessive 
scarring and risk of infection.

When you shower, let your arm hang at your side. Do NOT raise or 
lift your arm.  

To wash under your arm, lean forward carefully and let your arm 
hang.  Using your other hand, wash under your operative arm.  Do 
NOT scrub the incision.  

When you are done washing, stand up and let your arm hang at 
your side.  

Pat yourself dry and put your sling on.

 
Followup Instructions:
___